US04254127
A mixture of 2.16 parts of 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one, 2.57 parts of 1-(4-fluorophenyl)-2-(4-piperidinyl)ethanone hydrochloride, 5.3 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 15 hours using a water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and 2-propanol. The product is filtered off and dried, yielding 2.5 parts of 1-[2-[4-[2-(4-fluorophenyl)-2-oxoethyl]-1-piperidinyl]ethyl]-1,3-dihydro-2H-benzimidazol-2-one; mp. 180.6° C.

reactant | 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCN1C(NC2=C1C=CC=C2)=O | C9H9ClN2O
reactant | 1-(4-fluorophenyl)-2-(4-piperidinyl)ethanone hydrochloride | Cl.FC1=CC=C(C=C1)C(CC1CCNCC1)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[2-[4-[2-(4-fluorophenyl)-2-oxoethyl]-1-piperidinyl]ethyl]-1,3-dihydro-2H-benzimidazol-2-one | FC1=CC=C(C=C1)C(CC1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O)=O | C22H24FN3O2
